US06254724B1
1-Oxyl-2,2,6,6-tetramethyl-4-{2-hydroxy-3-[di(2-hydroxyethyl)amino]propoxy}piperidine
A solution of 2.28 g (0.01 mol) of 1-oxyl-2,2,6,6-tetramethyl-4-glycidyloxypiperidine and 1.05 g (0.01 mol) of diethanolamine in 25 mL of water is stirred at ambient temperature for 16 hours. The solution is then extracted with methylene chloride. The methylene chloride extract is dried over anhydrous magnesium sulfate, filter and concentrated. The crude reaction product is purified by column chromatography to afford 1.0 g of the title compound as a red oil.

reactant | 1-oxyl-2,2,6,6-tetramethyl-4-glycidyloxypiperidine | 0.01 mol, 2.28 g | ON1C(CC(CC1(C)C)OCC1CO1)(C)C | C12H23NO3
reactant | diethanolamine | 0.01 mol, 1.05 g | N(CCO)CCO | C4H11NO2
solvent | water | 25 mL | O | H2O
product | 1-Oxyl-2,2,6,6-tetramethyl-4-{2-hydroxy-3-[di(2-hydroxyethyl)amino]propoxy}piperidine | 1.0 g | ON1C(CC(CC1(C)C)OCC(CN(CCO)CCO)O)(C)C | C16H34N2O5
